US07662402B2
7.0 g of 5-hydroxypentyl benzyl ether and 10.6 g of triphenylphosphine were added to 50 ml of methyl tert-butyl ether and then cooled to 0° C. Further, 13.2 g of carbon tetrabromide was added and the mixture was stirred at room temperature for 3 hours. Thereafter, 100 ml of hexane was added and the mixture was concentrated under reduced pressure. The residue was subjected to silica gel column chromatography to obtain 5.5 g of 5-bromopentyl benzyl ether.

reactant | 5-hydroxypentyl benzyl ether | 7.0 g | C(C1=CC=CC=C1)OCCCCCO | C12H18O2
reactant | triphenylphosphine | 10.6 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | methyl tert-butyl ether | 50 ml | C(C)(C)(C)OC | C5H12O
reactant | carbon tetrabromide | 13.2 g | C(Br)(Br)(Br)Br | CBr4
solvent | hexane | 100 ml | CCCCCC | C6H14
product | 5-bromopentyl benzyl ether | 5.5 g | C(C1=CC=CC=C1)OCCCCCBr | C12H17BrO
